US04174959
7-benzylidenamino-1-ethyl-2-methyl-5-trifluoromethyl-6-chlorobenzimidazole
Benzaldehyde (0.78 g.; 7.35 mmole) was reacted with 1-ethyl-2-methyl-5-trifluoromethyl-6-chloro-7-aminobenzimidazole (1.0 g.; 3.66 mmole) in the presence of 7 ml. of xylene and a few crystals of benzenesulfonic acid. The mixture was refluxed for 1 hour, removing water from the reaction mixture. Upon cooling to room temperature, the product crystallized out of solution to give 1.24 g. (94% yield). After recrystallization from benzene, the product melts at 183°-185.5° C.

reactant | Benzaldehyde | 7.35 mmole, 0.78 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1-ethyl-2-methyl-5-trifluoromethyl-6-chloro-7-aminobenzimidazole | 3.66 mmole, 1.0 g | C(C)N1C(=NC2=C1C(=C(C(=C2)C(F)(F)F)Cl)N)C | C11H11ClF3N3
reactant | benzenesulfonic acid | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7-benzylidenamino-1-ethyl-2-methyl-5-trifluoromethyl-6-chlorobenzimidazole | 94% yield | C(C1=CC=CC=C1)=NC1=C(C(=CC2=C1N(C(=N2)C)CC)C(F)(F)F)Cl | C18H15ClF3N3
